US07902367B2
Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]perhydroazepin-1-yl]benzoate
Using N-(perhydroazepin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (200 mg, 0.550 mmol) and 3-(methoxycarbonyl)phenylboric acid (198 mg, 1.10 mmol), the same procedure was followed as in Example 2 to give 126 mg (46%) of the desired compound as a colorless powder.

reactant | N-(perhydroazepin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.550 mmol, 200 mg | N1CC(CCCC1)CNC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C18H22ClN3OS
reactant | 3-(methoxycarbonyl)phenylboric acid | 1.10 mmol, 198 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]perhydroazepin-1-yl]benzoate | 126 mg, 46% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NCC1CN(CCCC1)C=1C=C(C(=O)OC)C=CC1 | C26H28ClN3O3S
